US07834063B2
N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-(cyclopropylmethyl)-N1-[(4-fluorophenyl)methyl]glycinamide
Synthesized as described for Example 91C using N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(cyclopropylmethyl)glycine and 4-fluorobenzyl amine: MS (APCI) m/z 406 (M+1).

reactant | N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(cyclopropylmethyl)glycine | C(#N)C1=C(C=C(C=C1)N(CC(=O)O)CC1CC1)C(F)(F)F | C14H13F3N2O2
reactant | 4-fluorobenzyl amine | FC1=CC=C(CN)C=C1 | C7H8FN
product | N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-(cyclopropylmethyl)-N1-[(4-fluorophenyl)methyl]glycinamide | C(#N)C1=C(C=C(C=C1)N(CC(=O)NCC1=CC=C(C=C1)F)CC1CC1)C(F)(F)F | C21H19F4N3O
